US07521444B2
1,1′-Carbonyldiimidazole (262 mg, 1.62 mmol) was added to a slurry of 13-cyclohexyl-3-methoxy-6-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (603 mg, 1.36 mmol) in THF (3 mL). The reaction mixture was heated at 60° C. for 1.5 h, cooled to rt, treated with propane-2-sulfonamide (200 mg, 1.62 mmol), stirred 10 min and then treated with the dropwise addition of a solution of DBU (0.27 mL, 1.8 mmol) in THF (0.75 mL). The reaction mixture was stirred at rt overnight, diluted with EtOAc (15 mL) and washed with H2O (˜5 mL), 1N HCl (aq.) (2×10 mL) and brine (˜5 mL). The combined aqueous layers were extracted with EtOAc (15 mL) and the organic layer was washed with 1N HCl (aq.) (˜10 mL). The combined organic layers were washed with brine (˜5 mL), dried (MgSO4), filtered and concentrated. The residue was stirred with Et2O (˜15 mL) for 2 h and the solids were collected by filtration, rinsed with Et2O and dried to yield methyl 13-cyclohexyl-10-((isopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylate (640 mg, 1.2 mmol, 85%) as a bright yellow solid which was used without further purification. 1HNMR (300 MHz, CDCl3) δ 1.12-2.13 (m, 10H), 1.47 (d, J=7.0 Hz, 6H), 2.73-2.86 (m, 1H), 3.82 (s, 3H), 3.89 (s, 3H), 4.06-4.26 (m, 1H), 4.09 (septet, J=7.0 Hz, 1H), 5.51-5.71 (m, 1H), 6.98 (d, J=2.6 Hz, 1H), 7.08 (dd, J=8.4, 2.6 Hz, 1H), 7.44 (dd, J=8.4, 1.5 Hz, 1H), 7.50 (d, J=8.4 Hz, 1H), 7.80 (s, 1H), 7.87 (d, J=8.4 Hz, 1H), 8.10 (d, J=1.5 Hz, 1H), 8.57 (s, 1H). LCMS: m/e 551 (M+H)+, ret time 3.87 min, column B, 4 minute gradient.

reactant | 1,1′-Carbonyldiimidazole | 1.62 mmol, 262 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 13-cyclohexyl-3-methoxy-6-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 1.36 mmol, 603 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=C(C=C1)OC)C(=O)O | C27H27NO5
reactant | propane-2-sulfonamide | 1.62 mmol, 200 mg | CC(C)S(=O)(=O)N | C3H9NO2S
reactant | DBU | 1.8 mmol, 0.27 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | methyl 13-cyclohexyl-10-((isopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylate | 1.2 mmol, 640 mg, 85% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=C(C=C1)OC)C(NS(=O)(=O)C(C)C)=O | C30H34N2O6S
